US05643927
4'-(3-Chloropropoxy)-2'-hydroxyacetophenone
10 g (66 mmole) of 2',4'-dihydroxyacetophenone, 10 ml (101 mmole) of 1-bromo-3-chloropropane and 22.7 g (164 mmole) of anhydrous potassium carbonate in 250 ml of acetone were mixed and refluxed under heating for 16 hours. The mixture was cooled to room temperature, the solid insoluble was separated by filtration, and the filtrate was evaporated to dryness. The residue was dispersed in ethyl ether, filtered and dried to give 13.1 g (87%) of the product, melting point 74° C.

reactant | 2',4'-dihydroxyacetophenone | 66 mmole, 10 g | OC1=C(C=CC(=C1)O)C(C)=O | C8H8O3
reactant | 1-bromo-3-chloropropane | 101 mmole, 10 ml | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 164 mmole, 22.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 4'-(3-Chloropropoxy)-2'-hydroxyacetophenone | 13.1 g, 87% | ClCCCOC1=CC(=C(C=C1)C(C)=O)O | C11H13ClO3
